US06825191B2
Step 2: Synthesis of 5-chloropyridin-2-carboxylic acid hydrochloride
250 mg (1.35 mmol) of ethyl 5-chloropyridin-2-carboxylate was dissolved in 6 N hydrochloric acid, and the obtained solution was stirred at 70° C. for 2 hours. The solvent was evaporated to obtain the crude product.

reactant | ethyl 5-chloropyridin-2-carboxylate | 1.35 mmol, 250 mg | ClC=1C=CC(=NC1)C(=O)OCC | C8H8ClNO2
solvent | hydrochloric acid | 6 N | Cl | ClH
product | 5-chloropyridin-2-carboxylic acid hydrochloride | Cl.ClC=1C=CC(=NC1)C(=O)O | InChI=1S/C6H4ClNO2.ClH/c7-4-1-2-5(6(9)10)8-3-4;/h1-3H,(H,9,10);1H
